US08026279B2
Step A: Allyl 1-Aminomethyl-1-Cyclohexane Acetate Hydrochloride
A dry 3 L, three-neck, round-bottomed flash fitted with a magnetic stirring bar and a 500 mL pressure-equalizing addition funnel is flushed with nitrogen gas. The flask is charged with gabapentin (171 g, 1.0 mol) and allyl alcohol (1 L, 852 g, 14.6 mol) and the entire mixture is cooled to 0° C. in an ice-water bath. Thionyl chloride (225 mL, 360 g, 3.0 mol) is added dropwise over a period of 1 h to the stirred solution. The reaction mixture is allowed to stir at room temperature for 16 h, then is diluted with ethyl ether (2 L) and cooled to 0° C. while stirring. After several minutes white crystals form formed, which are were collected by filtration. The crude product is recrystallized from a 1/3 (v/v) mixture of ethanol and ethyl ether (2 L) to give the product as a white solid (220 g 88%). m.p.: 138-142° C. 1H NMR (CD3OD, 400 MHz): δ 1.36-1.54 (m, 10H), 2.57 (s, 2H), 3.05 (s, 2H), 4.61 (d, J=6 Hz, 2H), 5.22 (dd, J1=10.4 Hz, J2=1.2 Hz, 1H), 5.33 (dd, J1=17.2 Hz, J2=1.4 Hz, 1H), 5.90-6.00 (m, 1H). MS (ESI) m/z 212.0 (M-Cl)+.

reactant | gabapentin | 1.0 mol, 171 g | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | allyl alcohol | 14.6 mol, 1 L, 852 g | C(C=C)O | C3H6O
reactant | Thionyl chloride | 3.0 mol, 225 mL, 360 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl ether | 2 L | C(C)OCC | C4H10O
product | Allyl 1-Aminomethyl-1-Cyclohexane Acetate Hydrochloride | 220 g, 88% | Cl.NCC1(CCCCC1)CC(=O)OCC=C | InChI=1S/C12H21NO2.ClH/c1-2-8-15-11(14)9-12(10-13)6-4-3-5-7-12;/h2H,1,3-10,13H2;1H
